US06248919B1
Dimethyl 2′-methyl(1,1′-biphenyl)-2.5-dicarboxylate
A mixture of dimethyl iodoterephthalate (2.41 kg, 7.53 mol), ortho-tolylboronic acid (1.23 kg, 9.04 mol), palladium(II) acetate (16.9 g, 0.08 mol), and triphenylphosphine (79.0 g, 0.30 mol) in deoxygenated toluene (19 L) and 2M Na2CO3 (19 L) was vigorously mechanically stirred for 4 hours at 75-80° C. and cooled to room temperature to provide two distinct layers. The layers were separated, and the organic layer was filtered through a pad of silica gel 60 (4.79 kg of silica gel slurried with 2×10 L of MTBE) with a 40 L MTBE rinse, concentrated to 40 L, stored at 2-8° C. for 18 hours, filtered through a pad of diatomaceous earth (4.91 kg of Celite® 521 slurried in 20 L of MTBE) with a 40 L MTBE rinse to provide a solution of 2.12 kg (99%) of the desired product in MTBE.

reactant | dimethyl iodoterephthalate | 7.53 mol, 2.41 kg | IC1=C(C(=O)OC)C=CC(=C1)C(=O)OC | C10H9IO4
reactant | ortho-tolylboronic acid | 9.04 mol, 1.23 kg | C1(=C(C=CC=C1)B(O)O)C | C7H9BO2
solvent | toluene | 19 L | C1(=CC=CC=C1)C | C7H8
solvent | Na2CO3 | 2M, 19 L | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | palladium(II) acetate | 0.08 mol, 16.9 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 0.30 mol, 79.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | Dimethyl 2′-methyl(1,1′-biphenyl)-2.5-dicarboxylate | 2.12 kg, 99% | CC1=C(C=CC=C1)C=1C(=CC=C(C1)C(=O)OC)C(=O)OC | C17H16O4
